### PR TITLE
feat(SetTheory/Ordinal/Arithmetic): `Ordinal.toNat`

### PR DESCRIPTION
**Pull request by vihdzp**
A simple function sending ordinals less than `ω` to themselves, and anything else to `0`.

---

- [ ] depends on: #17758

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 1]
```diff
@@ -2482,6 +2482,64 @@ theorem sup_mul_nat (o : Ordinal) : (sup fun n : ℕ => o * n) = o * ω := by
     exact sup_eq_zero_iff.2 fun n => zero_mul (n : Ordinal)
   · exact (mul_isNormal ho).apply_omega0
 
+/-- Converts an ordinal less than `ω` into a natural number, sending all infinite ordinals to zero.
+-/
+def toNat (o : Ordinal) : ℕ :=
+  if h : o < ω then Classical.choose (lt_omega0.1 h) else 0
```
Comment (urkud) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:2488]: The projection `toENat` may have better properties, see https://leanprover-community.github.io/mathlib4_docs/Mathlib/SetTheory/Cardinal/ENat.html#Cardinal.toENat for `Cardinal` version. Also, what do you think about linking your functions to `Ordinal.card`, or even defining it as `o.card.toENat`?

Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Arithmetic.lean:2488]: I like this idea. I'll put these definitions in files `Ordinal.ENat` and `Ordinal.ToNat` the cardinal files.
